US04221788
1-ethyl-2-(4-chlorobenzyl)perhydroazepine
Boil together (under agitation) 4 g of 2-(4-chlorobenzyl)perhydroazepine, 2.5 g of anhydrous potassium carbonate and 2.9 g of ethyl bromide under reflux for 26 hours in 30 ml of ethylmethylketone. Cool the thus-produced reaction mixture to ambient temperature. Mix the cooled reaction mixture with water and then extract it with diethyl ether. Dry the resulting organic phase over sodium sulfate, remove the ether and distil the residue to obtain 5.12 g (70% of theory) of the title compound with a BP of 112° at 0.005 mm of Hg.

reactant | 2-(4-chlorobenzyl)perhydroazepine | 4 g | ClC1=CC=C(CC2NCCCCC2)C=C1 | C13H18ClN
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 2.9 g | C(C)Br | C2H5Br
reactant | water | O | H2O
solvent | ethylmethylketone | 30 ml | C(C)C(=O)C | C4H8O
product | 1-ethyl-2-(4-chlorobenzyl)perhydroazepine | C(C)N1C(CCCCC1)CC1=CC=C(C=C1)Cl | C15H22ClN
